US04203988
A. 2-{2-[N-(2-Benzyloxyethyl)-N-methylamino]ethylamino}-4,6-dimethylpyridine
To 24.5 g (0.149 mole) of N-(4,6-dimethyl-2-pyridyl)acetamide dissolved in 350 ml of dimethylformamide is added sodium hydride in mineral oil (50%) (7.2 g., 0.15 mole) in two portions with stirring, at room temperature. When reaction ceases, N-(2-benzyloxyethyl)-N-(2-chloroethyl)methylamine hydrochloride (24.5 g., 0.149 mole) is added in 2 portions. After bubbling ceases, the mixture is stirred at 50°-55° for 45 minutes and than heated on a steam bath for two hours. The mixture is cooled and concentrated under vacuum after 25 ml of acetic acid is added. The residue is taken up in dilute hydrochloric acid and extracted with hexane. The aqueous is made alkaline with 10 N sodium hydroxide and extracted with ether, then methylene chloride. The combined organic extracts are backwashed with brine, dried (sodium sulfate) and vacuum concentrated. The residue is distilled, the fraction boiling at 205°-215°/0.5 mm collected and this then refluxed in 5 N sodium hydroxide until hydrolysis is complete. On cooling, the mixture is extracted with toluene and then with methylene chloride. The combined organic extracts are washed with brine, dried and vacuum concentrated to obtain the product as an oil, weight 35 g.

reactant | N-(4,6-dimethyl-2-pyridyl)acetamide | 0.149 mole, 24.5 g | CC1=CC(=NC(=C1)C)NC(C)=O | C9H12N2O
reactant | sodium hydride | [H-].[Na+]
reactant | N-(2-benzyloxyethyl)-N-(2-chloroethyl)methylamine hydrochloride | 0.149 mole, 24.5 g | Cl.C(C1=CC=CC=C1)OCCN(CCCl)C
solvent | dimethylformamide | 350 ml | CN(C=O)C | C3H7NO
product | 2-{2-[N-(2-Benzyloxyethyl)-N-methylamino]ethylamino}-4,6-dimethylpyridine | C(C1=CC=CC=C1)OCCN(C)CCNC1=NC(=CC(=C1)C)C | C19H27N3O
